US03985750
In accordance with the general procedure described in the foregoing Examples, 14.0 grams of 8-methylthio-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin was reacted with 15.3 grams of lauroyl chloride (dodecanoyl chloride) in a mixture of benzene and chloroform. In this manner, 8-methylthio-10-[4-(3-dodecanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin was obtained. The pure base was a viscous oil which formed a crystalline di(hydrogen maleate) that had a melting point of 121°-122°C, after recrystallization from acetone.

reactant | 8-methylthio-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | 14.0 grams | CSC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCO)C1 | C22H28N2OS2
reactant | lauroyl chloride | 15.3 grams | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-methylthio-10-[4-(3-dodecanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | CSC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCOC(CCCCCCCCCCC)=O)C1 | C34H50N2O2S2
